US04020163
5,5-Dimethyl-1,4-ethano-8-[4-(4-fluorophenyl)-1-methylbutyl]-10-hydroxy-1,2,3,4-tetrahydro-5H[1]benzopyrano [3,4-b]pyridine is reacted with γ-morpholinobutyric acid hydrochloride in the presence of dicyclohexylcarbodiimide to produce 5,5-dimethyl-1,4-ethano-8-[4-(4-fluorophenyl)-1-methylbutyl]-10-[4-morpholino)butyryloxy]-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-b]pyridine hydrochloride.

reactant | γ-morpholinobutyric acid hydrochloride | Cl.O1CCN(CC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-b]pyridine hydrochloride | Cl.C1C2=C(NCC1)COC1=C2C=CC=C1 | InChI=1S/C12H13NO.ClH/c1-2-6-12-10(4-1)9-5-3-7-13-11(9)8-14-12;/h1-2,4,6,13H,3,5,7-8H2;1H
